US06008243
According to the procedure described in Example 1(b) for the preparation of 3(R)-t-butoxycarbonylamino-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid benzyl ester, 2(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]succinic acid 4-benzyl ester and L-t-leucine N-methylamide (see Malon, P.; Pancoska, P.; Budesinsky, M.; Hlavacek, J.; Pospisek, J.; Blaha, K. Coll. Czech. Chem Commun. 1983, 48, 2844-2861) were coupled with TBTU. Successive flash column chromatography with 0-30% EtOAc/CH2Cl2 and 2-5% MeOH/CH2Cl2 gradient eluants, respectively, and radial chromatography with 0-40% EtOAc/hex gradient eluant furnished in 66% yield 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid benzyl ester as a crisp foam. 1H NMR: δ 7.75 (d, 2H, J=8.5 Hz), 7.69 (d, 2H, J=8.5 Hz), 7.64 (d, 2H, J=8.8 Hz), 7.44 (d, 2H, J=8.5 Hz), 7.31 (s, 5H), 7.09 (t, 1H, J=2.6 Hz), 7.04 (t, 1H, J=1.8 Hz), 6.50 (bd, 1H, J=9.6 Hz), 6.28 (dd, 1H, J=1.7, 2.8 Hz), 5.70-5.67 (m, 1H), 5.12 (s, 2H), 4.13 (d, 1H, J=9.2 Hz), 4.02 (t, 1H, J=7.4 Hz), 3.23 (dd, 1H, J=7.5, 16.7 Hz), 2.85 (dd, g1H, J=6.8, 16.7 Hz), 2.76 (d, 3H, J=4.8 Hz), 0.96 (s, 9H). Anal. Calculated for C35H36N4O4.0.5 H2O: C, 71.77; H, 6.37; N, 9.57. Found: C, 71.73; H, 6.35; N, 9.54.

reactant | 3(R)-t-butoxycarbonylamino-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)NC(=O)OC(C)(C)C)=O | C23H35N3O6
reactant | 2(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]succinic acid 4-benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)O)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N)=O | C28H22N2O4
reactant | L-t-leucine N-methylamide | CNC([C@@H](N)C(C)(C)C)=O | C7H16N2O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | EtOAc CH2Cl2 | CCOC(=O)C.C(Cl)Cl
product | 3(S)-[1-(4'-cyanobiphenyl-4-yl)-1H-pyrrol-3-yl]-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid benzyl ester | 66% yield | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N)=O | C35H36N4O4
